US08017602B2
Step iii) tert-Butyl 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate
Ethyl iodide (0.216 mL) was added in one portion to a mixture of tert-butyl 3-(3-ethynylphenethoxy)propanoate [Example 4, Step ii)] (564 mg), sodium azide (160 mg) tert-butanol (0.25 mL), water (1 mL) and copper (I) iodide (39 mg) and sealed into a microwave tube. The reaction was heated to 70° C., over a period of 6 h in a microwave reactor. The reaction mixture was diluted with ethyl acetate and 35% ammonia was added. The mixture was stirred for 30 min and separated. The organic layer was dried over magnesium sulfate, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 20-100% ethyl acetate in isohexane, then elution gradient 0-10% methanol in ethyl acetate to afford the subtitled compound (396 mg) 1H NMR (300 MHz, CDCl3) δ 7.79 (s, 1H), 7.70 (s, 1H), 7.66 (d, J=7.7 Hz, 1H), 7.33 (t, J=7.7 Hz, 1H), 4.47 (q, J=7.3 Hz, 2H), 3.73-3.66 (m, 4H), 2.92 (t, J=7.2 Hz, 2H), 2.49 (t, J=6.5 Hz, 2H), 1.61 (t, J=7.3 Hz, 3H), 1.43 (s, 9H).

reactant | Ethyl iodide | 0.216 mL | C(C)I | C2H5I
reactant | tert-butyl 3-(3-ethynylphenethoxy)propanoate | C(#C)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C17H22O3
reactant | sodium azide | 0.25 mL, 160 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonia | N | H3N
catalyst | copper (I) iodide | 39 mg | [Cu]I
product | tert-Butyl 3-(3-(1-ethyl-1H-1,2,3-triazol-4-yl)phenethoxy)propanoate | 396 mg | C(C)N1N=NC(=C1)C=1C=C(CCOCCC(=O)OC(C)(C)C)C=CC1 | C19H27N3O3
